* Amplificador simple tension *
* tran <Tstep> <Tstop> [Tstart [dTmax]] [modifiers]
*.tran 0 2m 0 10u


*V_V1         n1 n2 DC 0 AC 1 SIN off amp f 0 0 0
V_Vs         s	0	DC	1m	AC	1
+PULSE	1m	1	1k	0	0	0
R_Rs	s	in	1K
R_Rin	in	0	1meg
E_E1	out	0	in	0	10000
C_Cf	out	in	100n
R_RL	out	0	1k
