* Amplificador simple tension *
* tran <Tstep> <Tstop> [Tstart [dTmax]] [modifiers]
*.tran 0 2m 0 10u


*V_V1         n1 n2 DC 0 AC 1 SIN off amp f 0 0 0
V_Vs         s	0	DC	1m	AC	1
+PULSE	0	1m	1k
R_Rs	s	in	1K
R_Rin	in	0	1meg
E_E1	out2	0	0	in	100000
R_Ro	out2	out	75
C_Cf	out	in	100n
*R_Rf2	m	in	1
*R_Rf	out	in	100K
R_RL	out	0	10k
